US08304036B2
A mixture of 15.1 g (58.7 mmol) of 2-iodoselenophene, 13.9 g (67.7 mmol) of 4-trifluoromethoxyphenylboronic acid, 3.90 g (3.38 mmol) of tetrakis(triphenylphosphine)palladium(0) and 150 ml of 2 N sodium carbonate soln. in 400 ml of toluene/ethanol (1:1) is heated under reflux for 23 h. After cooling, the organic phase is separated off, and the aqueous phase is extracted a number of times with MTBE. The combined organic phases are washed with 1 N hydrochloric acid and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The residue is purified by column chromatography (SiO2, n-heptane:EtOAc=20:1→10:1→1:1). Further purification is carried out by recrystallisation from n-heptane; 2-(4-trifluoromethoxyphenyl)selenophene is obtained as a yellowish solid.

reactant | 2-iodoselenophene | 58.7 mmol, 15.1 g | IC=1[Se]C=CC1 | C4H3ISe
reactant | 4-trifluoromethoxyphenylboronic acid | 67.7 mmol, 13.9 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | sodium carbonate | 2 N, 150 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 400 ml | C1(=CC=CC=C1)C.C(C)O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.38 mmol, 3.90 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-trifluoromethoxyphenyl)selenophene | FC(OC1=CC=C(C=C1)C=1[Se]C=CC1)(F)F | C11H7F3OSe
